US04518789
Synthesis of N-methyl phenyl alpha-acetoxyacetamide
N-methyl mandelic amide 100 g, synthesized as above is dissolved in acetic anhydride 200 ml at 60 degrees C. and concentrated sulfuric acid 0.5 ml is added. The mixture is heated at 90-95 degrees C. for 5 hours to complete the acetylation. The reaction mixture is then evaporated at 70 degrees C. in vacuum and the syrupy residue thus obtained is mixed with 1 liter of ice water. Chloroform 200 ml is added to extract the oily product and the chloroform layer is washed with 5% aqueous sodium bicarbonate, 200 ml and 0.2N HCL 200 ml, and dried with anhydrous sodium sulfate. On evaporation of the chloroform solution at 40 degrees C. in vacuum white crystalline product is formed from the syrupy residue. The crystals are washed with n-hexane. N-methyl phenyl alpha-acetoxyacetamide 66 g thus synthesized is identified by infrared spectroscopy, high performance liquid chromatography and thin-layer chromatography with a mobility of 0.65 on a solvent system of benzene:methanol 1:1.

reactant | N-methyl mandelic amide | 100 g | CNC(C(O)C1=CC=CC=C1)=O | C9H11NO2
reactant | sulfuric acid | 0.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | Chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
reactant | benzene methanol | C1=CC=CC=C1.CO
solvent | acetic anhydride | 200 ml | C(C)(=O)OC(C)=O | C4H6O3
product | N-methyl phenyl alpha-acetoxyacetamide | CNC(C(OC(C)=O)C1=CC=CC=C1)=O | C11H13NO3
